US04481199
4-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]4H-1,2,4-triazole-3-carboxaldehyde oxime
A solution of hydroxylamine hydrochloride (0.13 g) in ethanol (10 ml) was treated with potassium hydroxide (0.11 g). A solution of 4-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-4H-1,2,4-triazole-3-carboxaldehyde (0.54 g) in ethanol (10 ml) was added. The mixture was stirred at room temperature for 15 min and then filtered. The filtrate was evaporated and the residue was crystallised from a mixture of ethanol (5 ml) and ethyl acetate (5 ml) to give the title compound as a white crystalline solid (0.21 g) m.p. 187°-188°.

reactant | hydroxylamine hydrochloride | 0.13 g | Cl.NO
reactant | potassium hydroxide | 0.11 g | [OH-].[K+]
reactant | 4-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-4H-1,2,4-triazole-3-carboxaldehyde | 0.54 g | CN1C(=NN=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)C=O | C19H27N5O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]4H-1,2,4-triazole-3-carboxaldehyde oxime | 0.21 g | CN1C(=NN=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)C=NO | C19H28N6O2
